US06949571B2
1-Phenyl-5-pyridin-2-yl-2(1H)-pyridone
While stirring 5-Pyridin-2-yl-2(1H)-pyridone (185 g), PhB(OH)2 (261 g), Cu(OAc)2 (19.4 g), pyridine (173 ml) and DMF (1480 ml) at room temperature, air was blown at 2.0 L/minute therein, to initiate the reactions. Since 26% of the reactant remained unreacted 7 hours after the initiation of the reaction, flow of air was stopped to suspend the reactions. On the next day, air was blown into the solution to restart the reactions, and the reactant was consumed to 0.57% of the initial weight in 5.5 hours. The reaction solution was poured in to ice-cooled 10% aqueous ammonia (7.5 L), to give MA045. The resulting precipitates were collected by filtration under reduced pressure, and washed with water (3 L). The resulting crystals were suspended into 10% aqueous ammonia (3.6 L) under stirring at room temperature for 1 hour. Then the crystals were collected by filtration under reduced pressure, and washed with water (2 L). The resulting crystals were air-dried overnight, to give 187 g (68%) of the title compound as brown crystals.

reactant | 5-Pyridin-2-yl-2(1H)-pyridone | 185 g | N1=C(C=CC=C1)C=1C=CC(NC1)=O | C10H8N2O
reactant | PhB(OH)2 | 261 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 173 ml | N1=CC=CC=C1 | C5H5N
catalyst | Cu(OAc)2 | 19.4 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | DMF | 1480 ml | CN(C)C=O | C3H7NO
product | 1-Phenyl-5-pyridin-2-yl-2(1H)-pyridone | 187 g, 68% | C1(=CC=CC=C1)N1C(C=CC(=C1)C1=NC=CC=C1)=O | C16H12N2O
